US06159967
41(a) Methyl-4-(3,4-dichlorophenyl)-4-oxobutanoate
1.00 g (6.80 mmole) of dichlorobenzene and 0.72 g (7.14 mmole) of succinic anhydride were suspended in 3 ml of dichloroethane and 1.36 g (10.2 mmole) of aluminum chloride powder were added. The mixture was then stirred at 60° C. for 3 hours. At the end of this time, the reaction mixture was ice-cooled and 1 N aqueous hydrochloric acid was added. The mixture was then extracted with methylene chloride. The organic extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure. The resulting residue was dissolved in 30 ml of methanol, and 0.20 ml of an aqueous solution of sulfuric acid was added. The solution was then heated under reflux for 2 hours, after which the reaction mixture was cooled to room temperature, poured into water and then extracted with diethyl ether. The organic extract was washed with a saturated aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, and dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography, using a gradient elution method, with mixtures of hexane and diethyl ether ranging from 17:3 to 7:3 by volume as the eluent, to obtain 0.25 g (yield 14%) of the title compound as pale orange crystals.

reactant | dichlorobenzene | 6.80 mmole, 1.00 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | succinic anhydride | 7.14 mmole, 0.72 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | 10.2 mmole, 1.36 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | dichloroethane | 3 ml | ClC(C)Cl | C2H4Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | Methyl-4-(3,4-dichlorophenyl)-4-oxobutanoate | 0.25 g, yield 14% | COC(CCC(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C11H10Cl2O3
